US05175162
To a solution of 1.0 g of 2-(4-chlorophenyl)-9-methyl-5,6-dihydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one in 50 ml of formic acid is added 0.3 ml of 35% aqueous hydrogen peroxide solution with stirring at 5° C. and the mixture is stirred for 10 minutes at the same temperature. To the mixture is further added 0.3 ml of aqueous hydrogen peroxide solution and the mixture is stirred for 20 minutes. Then, the mixture is poured into water, extracted with chloroform three times and the extract is washed with water and dried over magnesium sulfate. After the chloroform is distilled off under reduced pressure, the resulting crystals are recrystallized from a mixed solvent of chloroform and ethanol to give 1.0 g of 2-(4-chlorophenyl)-9-methyl-5,6-dihydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one 7-oxide as white crystals, melting at 174°-175° C. with decomposition.

reactant | 2-(4-chlorophenyl)-9-methyl-5,6-dihydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one | 1.0 g | ClC1=CC=C(C=C1)N1N=C2C(=CC1=O)CCSC1=C2C=C(S1)C | C17H13ClN2OS2
reactant | hydrogen peroxide | 0.3 ml | OO | H2O2
reactant | hydrogen peroxide | 0.3 ml | OO | H2O2
reactant | water | O | H2O
solvent | formic acid | 50 ml | C(=O)O | CH2O2
product | 2-(4-chlorophenyl)-9-methyl-5,6-dihydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one 7-oxide | 1.0 g | ClC1=CC=C(C=C1)N1N=C2C(=CC1=O)CCS(C1=C2C=C(S1)C)=O | C17H13ClN2O2S2
